* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 22.6
R1 n1 a 2
R2 a nc 4
V2 nc nd DC 27.7
R3 nd ne 1
V3 b ne DC 20
V4 nf b DC 11.8
R4 nf 0 2
.op
.print dc V(a) V(b)
.end